*SIMULATOR=LTspice 
.SUBCKT ZXGD3006_AB  VCC IN VEE SINK SOURCE
R 7 0 1t
LIN IN 7 2n Rpar=10 Rser=1 
D1 7 8 DMOD
D2 9 7 DMOD
CI1 7 8 5.5p Rpar=1Meg
CI2 9 7 5.5p Rpar=1Meg
RsourceI 10 12 1.5
RsinkI 11 13 1.5
D3 12 8 DMOD
D4 9 13 DMOD
LCC VCC 8 2n Rpar=10 
LEE VEE 9 2n Rpar=10
Lsource 12 SOURCE 1n Rpar=5 
Lsink 13 SINK 1n Rpar=5 
Qn 8 7 12 n
Qp 9 7 13 p
.model n npn is=14p BF=20000 tf=1.5n ikf=4 nf=1.24 nk=0.84
.model p pnp is=14p BF=22000 tf=1.5n ikf=4 nf=1.24   nk=0.82
.MODEL DMOD D(IS=8p BV=44 cjo=200f)
.ENDS ZXGD3006_AB